US06635647B2
f) (S)-3-Benzo[1,2,5]thiadiazol-5-yl-N-[(1R,2R)-2-hydroxy-1-methyl-2-phenyl-ethyl]-2,N-dimethyl-propionamide
Water free LiCl (59.4 g, 1.4 mol) is carefully dried in vacuo at 600° for 10 minutes and then the vessel purged with Ar. THF (460 ml) is added and cooled to 0°. A solution of LDA (2M in THF/heptane/Et2O, 200 ml, 0.4 mol) is added and cooled to −75°. A solution of N-[(1R,2R)-2-hydroxy-1-methyl-2-phenyl-ethyl]-N-methyl-propionamide (44.4 g, 0.2 mol) in 460 ml THF is added dropwise over 170 minutes while maintaining the internal temperature at −62° to −69°. After stirring for 1 h at −75°, the cooling bath is removed for 30 minutes, during which time the temperature rises to −30°. The mixture is recooled to −75° and then treated with a solution of 5-bromomethyl-benzo[1,2,5]thiadiazole (34.8 g, 0.152 mol) in 260 ml THF during 85 min at −70° to −78°. The mixture is then stirred for 40 h at −78°. A 15% NH4Cl solution (1000 ml) is added and the mixture stirred well. Extraction with EtOAc (2×500 ml), drying (Na2SO4) and evaporation afford crude product. MPLC purification (2 kg silicagel, EtOAc/hexanes 2/1) afford pure product as a orange oil. Diastereomeric ration 92:8 (NMR, 120°). TLC (silicagel, EtOAc/hexanes2:1): rf 0.38.

reactant | Water | 1.4 mol, 59.4 g | O | H2O
reactant | LDA | 0.4 mol, 2M, 200 ml | [Li+].CC(C)[N-]C(C)C
reactant | N-[(1R,2R)-2-hydroxy-1-methyl-2-phenyl-ethyl]-N-methyl-propionamide | 0.2 mol, 44.4 g | O[C@@H]([C@@H](C)N(C(CC)=O)C)C1=CC=CC=C1 | C13H19NO2
reactant | 5-bromomethyl-benzo[1,2,5]thiadiazole | 0.152 mol, 34.8 g | BrCC=1C=CC=2C(=NSN2)C1 | C7H5BrN2S
reactant | NH4Cl | 1000 ml | [NH4+].[Cl-]
solvent | THF | 460 ml | C1CCOC1 | C4H8O
solvent | THF | 260 ml | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S)-3-Benzo[1,2,5]thiadiazol-5-yl-N-[(1R,2R)-2-hydroxy-1-methyl-2-phenyl-ethyl]-2,N-dimethyl-propionamide | N1=C2C(=NS1)C=C(C=C2)C[C@@H](C(=O)N(C)[C@@H]([C@@H](C2=CC=CC=C2)O)C)C | C20H23N3O2S
